US07728131B2
3-acetyl-5-bromopyridine
1.24 g of ground magnesium chloride was suspended in 13 ml of toluene and 6.2 ml of triethylamine and 2.93 g of diethyl malonate were added in turn. After stirring at room temperature for 1.5 hours, a suspension of 4.08 g of 5-bromonicotinoyl chloride obtained in the step 1 in 10 ml of toluene was added dropwise over 15 minutes, followed by stirring at room temperature for 2 hours. After neutralizing with 40 ml of 1N hydrochloric acid, the aqueous layer was separated. The aqueous layer was further subjected to extraction with diethyl ether and the organic layers were combined, and then the solvent was distilled off under reduced pressure. To the resulting oily product, dimethyl sulfoxide-water (17 ml-0.7 ml) was added, followed by stirring with heating at 150 to 160° C. for 2 hours. The reaction solution was air-cooled, and then water was added. Then, the deposited crystals were collected by filtration. The deposited crystals were dissolved in ethyl acetate, washed in turn with water and an aqueous saturated sodium hydrogen carbonate solution and then dried over anhydrous magnesium sulfate. 0.60 g of activated carbon (Kyoryoku Shirasagi MOIWY433) was added and, after standing for 10 minutes, activated carbon was removed by filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 0.89 g of the objective compound as pale yellow crystals.

reactant | magnesium chloride | [Cl-].[Mg+2].[Cl-]
reactant | diethyl malonate | 2.93 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-bromonicotinoyl chloride | 4.08 g | BrC=1C=NC=C(C(=O)Cl)C1 | C6H3BrClNO
reactant | hydrochloric acid | 1N, 40 ml | Cl | ClH
solvent | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 6.2 ml | C(C)N(CC)CC | C6H15N
product | 3-acetyl-5-bromopyridine | 0.89 g | C(C)(=O)C=1C=NC=C(C1)Br | C7H6BrNO
